US07858643B2
To a solution of 3-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-iodo-pyridin-2-ylamine (6.363 g, 14.901 mmol) and 2-methyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]propionic acid methyl ester (4.6 g, 15.64 mmol) in DME (27 mL) was added a solution of CsF (6.79 g, 44.7 mmol) in water (9.3 mL). The reaction mixture was degassed 3 times with N2. Pd(dppf)CH2Cl2 was added and the reaction mixture was degassed 3 times with N2. The reaction was heated to 120° C. in the microwave (subsequent Pd was added in intervals of 30 minutes until the reaction was complete). Water was added and the reaction was extracted with EtOAc, dried over Na2SO4, and concentrated to give 2-(4-{6-amino-5-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-pyrazol-1-yl)-2-methyl-propionic acid methyl ester. The crude product was purified by a silica gel column chromatography with a gradient of 25%-50% EtOAc/hexanes to provide 2-(4-{6-Amino-5-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-pyrazol-1-yl)-2-methyl-propionic acid methyl ester (1.46 g, 21% yield) with a Rf 0.11 (50% EtOAc/hexanes).

reactant | 3-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-iodo-pyridin-2-ylamine | 14.901 mmol, 6.363 g | ClC1=C(C(=CC=C1F)Cl)C(C)OC=1C(=NC=C(C1)I)N | C13H10Cl2FIN2O
reactant | 2-methyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]propionic acid methyl ester | 15.64 mmol, 4.6 g | COC(C(C)(N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C14H23BN2O4
reactant | CsF | 44.7 mmol, 6.79 g | [F-].[Cs+]
solvent | DME | 27 mL | COCCOC | C4H10O2
solvent | water | 9.3 mL | O | H2O
product | 2-(4-{6-amino-5-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-pyrazol-1-yl)-2-methyl-propionic acid methyl ester | COC(C(C)(C)N1N=CC(=C1)C=1C=NC(=C(C1)OC(C)C1=C(C(=CC=C1Cl)F)Cl)N)=O | C21H21Cl2FN4O3
